US04096264
A solution of 4-phenylthiopicolinic acid hydrazide 2.3 g. (0.050 mole) in 4.3 ml. of concentrated hydrochloric acid and 25 ml. of water is cooled to 75° C and a solution of 3.55 g. of sodium nitrite in 6 ml. of water is added. The solution is stirred at 0°-5° for 20 minutes after the addition is complete. The resultant suspension is extracted with methylene chloride and the combined extracts are dried over sodium sulfate and evaporated in vacuo to yield 12.7 gm. of crude 4-phenylthio picolinic acid azide. The azide is heated in 60 ml. of 50% aqueous acetic acid at steam bath temperature for 40 minutes. The suspension is filtered and the filtrate is made basic with 50% sodium hydroxide. The solids are collected by filtration, washed with water, dried and chromatographed on silica gel. Elution with ethyl acetate yields 4-phenylthio 2-amino pyridine, the structure of which is characterized analytically.

reactant | 4-phenylthiopicolinic acid hydrazide | 2.3 g | C1(=CC=CC=C1)SC1=CC(=NC=C1)C(=O)NN | C12H11N3OS
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 4-phenylthio picolinic acid azide | C1(=CC=CC=C1)C1=CC(=NC=C1)C(=S)N=[N+]=[N-] | C12H8N4S
reactant | azide | [N-]=[N+]=[N-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-phenylthio 2-amino pyridine | C1(=CC=CC=C1)SC1=CC(=NC=C1)N | C11H10N2S
